US05654299
a. 1-Benzyloxycarbonyl-4-hydroxy-4-(2-fluoropyrid-3-yl)piperidine
To a solution of lithium diisopropylamide (0.31 mol) in 300 mL of anhydrous tetrahydrofuran:hexane at -78° C. was added a solution of 2-fluoropyridine (24.6 mL) in 40 mL of anhydrous tetrahydrofuran. The reaction mixture was allowed to warm to -50° C., cooled back to -74° C. and treated dropwise with a solution of lithium bromide (55.5 g) and 1-benzyloxycarbonyl-4-oxopiperidine (55.5 g) in 300 mL of anhydrous tetrahydrofuran so that the temperature of the reaction mixture remained below -70° C. After the addition was complete, the reaction mixture was allowed to warm to -30° C. and then treated with water. The organic layer was separated and the aqueous layer was extracted with two portions of ether. Combined organic layers were dried and evaporated to afford the crude product. This material was purified by column chromatography to afford the pure product.

reactant | lithium diisopropylamide | 0.31 mol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-fluoropyridine | 24.6 mL | FC1=NC=CC=C1 | C5H4FN
reactant | lithium bromide | 55.5 g | [Br-].[Li+]
reactant | 1-benzyloxycarbonyl-4-oxopiperidine | 55.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)=O | C13H15NO3
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 1-Benzyloxycarbonyl-4-hydroxy-4-(2-fluoropyrid-3-yl)piperidine | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(C=1C(=NC=CC1)F)O | C18H19FN2O3
